US07732477B2
Methyl7-chloro-1-benzothiophene-2-carboxylate
Using 1.0 g (6.31 mmol) of 2-fluoro-3-chlorobenzaldehyde, 0.38 g (9.46 mmol) of sodium hydride (60% pure) and 0.74 g (6.94 mmol) of methyl mercaptoacetate, 1.04 g (72.3% of theory) of the title compound are obtained.

reactant | 2-fluoro-3-chlorobenzaldehyde | 6.31 mmol, 1.0 g | FC1=C(C=O)C=CC=C1Cl | C7H4ClFO
reactant | sodium hydride | 9.46 mmol, 0.38 g | [H-].[Na+]
reactant | methyl mercaptoacetate | 6.94 mmol, 0.74 g | SCC(=O)OC | C3H6O2S
product | Methyl7-chloro-1-benzothiophene-2-carboxylate | COC(=O)C=1SC2=C(C1)C=CC=C2Cl | C10H7ClO2S
